US08008295B2
Ethyl N-{[2-(aminocarbonyl)-5-bromo-1H-indol-3-yl]sulfonyl}N-methyl-β-alaninate
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with methyl N-methyl-β-alaninate hydrochloride, the title compound was obtained. Proton NMR for the product was consistent with the titled compound. ESI+ MS: 432.2 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | methyl N-methyl-β-alaninate hydrochloride | Cl.CNCCC(=O)OC
product | Ethyl N-{[2-(aminocarbonyl)-5-bromo-1H-indol-3-yl]sulfonyl}N-methyl-β-alaninate | NC(=O)C=1NC2=CC=C(C=C2C1S(=O)(=O)N(CCC(=O)OCC)C)Br | C15H18BrN3O5S
